************************************************************
* Auto-generated from logic_3input_P_CLASS_2stack_50_to_51.log
* function idx   : 50
* truth table    : 01101011
* stack setting  : 2
* #transistors   : 18
* #nets          : 14
* #stages        : 3
* Pin order fixed to: A B C VDD VSS Z
************************************************************
.SUBCKT THREEINPUT_2STACK_TT01101011 A B C VDD VSS Z

MM0 n2 A VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM1 n2 B VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 n1 A VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM3 n4 A VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM4 n4 B VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM5 n3 C VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM6 n2 B n1 VDD pmos_rvt w=46.0n l=16n nfin=2
MM7 n6 B VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM8 n5 n2 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM9 n7 C n5 VSS nmos_rvt w=46.0n l=16n nfin=2
MM10 n7 A n6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM11 n7 C n4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM12 n7 n2 n4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM13 n8 n7 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM14 Z C n8 VSS nmos_rvt w=46.0n l=16n nfin=2
MM15 Z n2 n8 VSS nmos_rvt w=46.0n l=16n nfin=2
MM16 Z n7 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM17 Z n2 n3 VDD pmos_rvt w=46.0n l=16n nfin=2

.ENDS
